US06232060B1
FIGS. 4 and 5 show that in the organ preservation model, at 4° C., inosine, adenosine, alanine, and fructose provide substantial protection even up to 24 hours. When the cells are warmed to 37° C., inosine, adenosine, and alanine still afford substantial protection for an extended period of time, while the protection afforded by fructose is diminishing.

reactant | inosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O5
reactant | adenosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
reactant | alanine | N[C@@H](C)C(=O)O | C3H7NO2
product | fructose | OCC(=O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
